US05962438
Under a nitrogen atmosphere, 60% sodium hydride (2.56 g) was suspended in dry N,N-dimethylformamide (20 ml), and tetraisopropyl methylenebisphosphonate (20.0 g) was added dropwise thereto at room temperature. After stirring for 10 minutes, ethyl bromobutyrate (8.4 ml) was added dropwise thereto and the resulting mixture was stirred at 100° C. for 1 hour. Then, sodium iodide (0.85 g) was added thereto and stirred for 4 hours. Water was added thereto, followed by extraction (twice) with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in methanol (50 ml), followed by adding thereto a 2N aqueous sodium hydroxide solution (10 ml), and the resulting mixture was stirred with heating under reflux for 3 hours. The mixture was acidified with 1N hydrochloric acid and extracted with ethyl acetate, and the organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure, and then the residue was purified by a silica gel column chromatography to obtain 5,5-bis(diisopropoxyphosphinoyl)valeric acid (1.88 g, yield 8.7%). 1H-NMR (CDCl3) δ: ppm; 1.34 (12H, d, J=6.3 Hz), 1.34 (12H, d, J=5.9 Hz), 1.8-2.4 (7H, m), 4.7-4.9 (4H, m).

reactant | sodium hydride | 2.56 g | [H-].[Na+]
reactant | tetraisopropyl methylenebisphosphonate | 20.0 g | C(P(OC(C)C)(OC(C)C)=O)P(OC(C)C)(OC(C)C)=O | C13H30O6P2
reactant | ethyl bromobutyrate | 8.4 ml | BrC(C(=O)OCC)CC | C6H11BrO2
reactant | sodium iodide | 0.85 g | [I-].[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 5,5-bis(diisopropoxyphosphinoyl)valeric acid | 1.88 g, yield 8.7% | C(C)(C)OP(=O)(C(CCCC(=O)O)P(=O)(OC(C)C)OC(C)C)OC(C)C | C17H36O8P2
